US09085583B2
To a solution of ethyl 2-(1-methyl-3-nitro-2-oxo-1,2-dihydropyridin-4-yl)-3-oxobutanoate (2.5 g, 8.8 mmol) in ethanol (50 mL) was added ammonium chloride (0.5 g, 9 mmol) in water (5 mL) at room temperature. The mixture was stirred and heated to reflux. Then iron powder (0.5 g, 8.9 mmol) was added in one portion. The mixture was stirred at reflux for 2 hours. Once starting material was consumed, the resultant mixture was filtered when it was hot, and the filtrate was concentrated to give a residue. The residue was purified by column chromatography (silica gel, dichloromethane/methanol=10:1) to give ethyl 2,6-dimethyl-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridine-3-carboxylate (1.5 g, 75%) as a brown solid. LRMS (M+H+) m/z: calcd 234.1; found 234. 1H NMR (400 MHz, d6-DMSO): δ 12.54 (s, 1H), 7.30 (d, J=5.1 Hz, 1H), 6.78 (d, J=5.1 Hz, 1H), 4.24 (q, J=5.1 Hz, 2H), 3.51 (s, 3H), 2.56 (s, 3H), 1.32 (t, J=5.1 Hz, 3H).

reactant | ethyl 2-(1-methyl-3-nitro-2-oxo-1,2-dihydropyridin-4-yl)-3-oxobutanoate | 8.8 mmol, 2.5 g | CN1C(C(=C(C=C1)C(C(=O)OCC)C(C)=O)[N+](=O)[O-])=O | C12H14N2O6
reactant | ammonium chloride | 9 mmol, 0.5 g | [Cl-].[NH4+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
catalyst | iron | 8.9 mmol, 0.5 g | [Fe] | Fe
product | ethyl 2,6-dimethyl-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridine-3-carboxylate | 1.5 g, 75% | CC1=C(C2=C(C(N(C=C2)C)=O)N1)C(=O)OCC | C12H14N2O3
